US06320050B1
A solution of triphenylphosphine (154 mg, 0.59 mmol) in methylene chloride (2 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (105 mg, 0.59 mmol). The reaction mixture was stirred at 0° C. for 10 min and then treated with 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (200 mg, 0.53 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-aminothiazole (118 mg, 1.18 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) to afford 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (150 mg, 61%) as a pale yellow foam: mp 104-107° C.; EI-HRMS m/e calcd for C19H24N2O5S3 (M+) 456.0847, found 456.0846.

reactant | triphenylphosphine | 0.59 mmol, 154 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.59 mmol, 105 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 0.53 mmol, 200 mg | CS(=O)(=O)C=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C16H22O6S2
reactant | 2-aminothiazole | 1.18 mmol, 118 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 150 mg, 61% | CS(=O)(=O)C=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C19H24N2O5S3
